US05234951
Then, a liquid mixture of 16.2 g of 2'-hydroxy-4,4',6'-trimethoxy-3'-(3-methyl-2-butenyl)chalcone, 4.0 g of potassium hydroxide and 180 ml of ethanol was added to a suspension of 1.5 g of 5% palladium/carbon in 20 ml of ethyl acetate, in which a hydrogen gas had been sufficiently absorbed in advance, and the mixture was stirred at room temperature in a hydrogen gas atmosphere for 5 hours. After the reaction, the reaction mixture was made acidic by dilute hydrochloric acid, filtered, extracted with ethyl acetate and filtered, and the solvent was removed from the filtrate by distillation. The obtained residue was recrystallized from methanol to obtain 15.4 g (yield=94.6%) of 1-[4,6-dimethoxy-2-hydroxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone in the form of a colorless needle.

reactant | 2'-hydroxy-4,4',6'-trimethoxy-3'-(3-methyl-2-butenyl)chalcone | 16.2 g | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1CC=C(C)C)OC)OC | C23H26O5
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 1.5 g | [Pd] | Pd
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 1-[4,6-dimethoxy-2-hydroxy-3-(3-methyl-2-butenyl)phenyl]-3-(4-methoxyphenyl)-1-propanone | 15.4 g, yield=94.6% | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC=C(C=C1)OC)=O)O)CC=C(C)C | C23H28O5
